Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
weight loss
 
Major Surgical or Invasive Procedure:
EGD/Colonoscopy
 
History of Present Illness:
Mr. ___ is a ___ year old man with multiple chronic 
medical problems including recent peripheral vascular surgery (? 
arterial clot in ___, HTN and chronic pain attributed to 
reflex sympathetic dystrophy of the chest, s/p implantable 
dilaudid pump, on chronic oral narcotics and benzodiazepine 
therapy as well as SSRI.  

He presented late last year with a dilated CBD and was found to 
have ampullary stenosis.  He underwent sphincterotomy at that 
time and had some relief of his abdominal pain.  He had a CTA at 
that time to look for evidence for malignancy or other 
concurrent intraabdominal process and there was no evidence for 
such.

He, however, has continued to lose weight (40 lbs in 3 months) 
and was seen in clinic by Dr. ___ scheduled for an 
outpatient EGD and colonoscopy today.  Today's EGD showed 
gastritis and biospies were taken.  A colonoscopy was attempted 
but there was inadequate prep and he is now admitted to the 
Medicine service for further management.

Presently, he reports ongoing lower abdominal pain that is 
different from the more upper abdominal pain he had in ___. 
 He says he was going to see GI in ___ here for this pain 
but he developed a clot in his LLE and underwent emergent 
revascularization from his inguinal region to the distal leg.  
He had grafts taken from bilateral upper extremities.  He does 
not know if this was arterial or venous and has been presecribed 
Lovenox ever since.

ROS: 
GEN: no fevers, sweats  
HEENT: no odynophagia, dysphagia, neck stiffness  
CARDIAC: no CP, palpitations, orthopnea  
PULM: no shortness of breath or cough  
GI: no n/v/diarrhea, no hematochezia, but + "dark" stools x 
months
GU: no dysuria/freq/urgency  
CNS: no unilateral weakness, + numbness of LLE/foot since 
surgery  
MSK: no myalgia/arthralgia 
HEME: no bleeding, easy bruising  
DERM: no new skin rashes/lesions 
 
Past Medical History:
1. Blood clot in ___ - with emergency lower extremity bypass 
surgery by Dr ___ in ___.  Patient not sure if clot 
was arterial or not. Has been on Lovenox ever since 
2. Congestive heart failure - unknown EF
3. Coronary artery disease ___ blockages")
4. Hypertension
5. Hyperlipidemia
6. Migraine
7. Depression
8. History of h.pylori
9. BPH
10. Reflex sympathetic dystrophy - s/p trauma to chest many 
years ago with severe pain in sternum, s/p dilaudid pump 
 
Social History:
___
Family History:
Father died of throat cancer.  No family history of liver, 
colon, pancreatic, or other GI cancers.
Son with h/o adrenalectomy to treat HTN, now also may need to 
have second adrenal gland removed.
 
Physical Exam:
VS:  98.5  71  18  136/75  96% RA
GEN: pleasant, nad, VERY thin, nearly cachectic
HEENT: PERRL, EOMI, sclerae anicteric, neck supple, MMM, no 
ulcers/lesions/thrush  
CV: RRR, normal S1, S2, no M/G/R  
PULM: CTA bilat w/o wheezes/rhonchi/rales  
BACK: no focal tenderness, no CVAT  
GI: normoactive BS, soft, slightly tender bilateral LQs, 
non-distended  
MSK: no joint swelling or erythema  
EXT: warm and well perfused, no edema, 1+ DP pulses palpable 
bilaterally  
LYMPH: no supraclavicular lymphadenopathy 
SKIN: no rashes, no jaundice  
NEURO: AAOx3, CN ___ intact, normal gait, able to put on sock 
while balanced on one leg
PSYCH: non-anxious, normal affect
ACCESS: peripheral
 
Pertinent Results:
CT: ___
IMPRESSION: 
1. CBD dilatation with maximum axial diameter of 1.4 cm, without 
any clear 
stone or obstructing mass. No dilation of the pancreatic duct.  
2. Heavy atherosclerotic disease of the thoracic and abdominal 
aorta with 
thrombus in the infrarenal aorta. 

EGD ___:
There was mild resistance to passage of the upper endoscope- 
likely related to a cervical spur. 
The upper esophagus and UES were evaluated carefully and 
appeared normal. 
Several small linear ulcers were noted in the distal esophagus, 
suggestive of reflux esophagitis. 
Mild erythema in the antrum compatible with gastritis 
Otherwise normal EGD to ___ part of duodenum.

___ 07:45AM BLOOD WBC-4.2 RBC-3.81* Hgb-12.2* Hct-34.8* 
MCV-91 MCH-32.0 MCHC-35.0 RDW-13.2 Plt ___
___ 07:45AM BLOOD ___ PTT-21.0* ___
___ 07:45AM BLOOD Glucose-132* UreaN-10 Creat-0.7 Na-139 
K-3.7 Cl-100 HCO3-31 AnGap-12
___ 07:45AM BLOOD ALT-5 AST-21 LD(LDH)-178 AlkPhos-92 
TotBili-0.3
___ 07:45AM BLOOD Albumin-4.2 Calcium-9.3 Phos-2.4* Mg-2.4
___ 07:45AM BLOOD TSH-0.92
___ 07:45AM BLOOD Digoxin-0.7*

___ COLONOSCOPY: PRELIM!!!
TORTUOUS COLON, OTHERWISE NORMAL, NO BIOPSIES
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with a history of ? arterial 
thrombosis, CAD, CHF, chronic pain, HTN, subacute history of 
ampullary stenosis s/p sphincterotomy in ___, now with 
ongoing weight loss (40 lbs over 3 months) admitted for EGD and 
colonoscopy.  His EGD did not reveal any significantly worrisome 
findings (biospy pending).  His colonoscopy was limited by a 
poor preparation.  A repeat colonsocopy was performed on ___ 
which was a good prep, revealed a tortuous colon but no other 
pathology.  His EGD did have some gastritis and esophageal 
ulcerations so his PPI dose was increased from omeprazole 20mg 
po bid to 40mg po bid and biopsies are pending at the time of 
discharge.  The patient will f/u with his PCP for ongoing workup 
of his weight loss.
 
Medications on Admission:
Fiorinal with codeine 30 mg - two times/day
Carvedilol 6.25 mg - bid
Digoxin 250 mcg daily
Enoxaparin 0.8 mL bid (No longer taking per his vascular 
surgeon).
aspirin 81mg po daily
Fluoxetine 20 mg po tid (?)
Furosemide 40 mg po daily
hydromorphone 8 mg every ___ hrs prn pain
Lisinopril 5 mg po daily
omeprazole 40 mg po bid ? vs daily
zofran prn nausea
Proair inhaler PRN wheezing
Simvastatin 20 mg po daily
Flomax 0.4 mg po qhs
Temazepam 30 mg po daily
Androgel 1% daily
Zolmitriptan 5 mg prn migraine
 
Discharge Medications:
1. carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
2. Fiorinal-Codeine ___ mg Capsule Sig: One (1) 
Capsule PO twice a day.  
3. digoxin 250 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
5. fluoxetine 20 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
6. furosemide 40 mg Tablet Sig: One (1) Tablet PO once a day.  
7. hydromorphone 2 mg Tablet Sig: Four (4) Tablet PO q3hrs as 
needed for pain.  
8. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed for nausea.  
10. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q4H (every 4 hours) as needed for 
wheezing.  
11. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. tamsulosin 0.4 mg Capsule, Ext Release 24 hr Sig: One (1) 
Capsule, Ext Release 24 hr PO HS (at bedtime).  
13. temazepam 15 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime) as needed for insomnia.  
14. zolmitriptan  Oral
15. AndroGel  Transdermal
16. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day: take twice daily 
for 8 weeks then once daily after that.
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
weight loss
esophageal ulceration
gastritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for a colonoscopy and upper 
endoscopy.  Your colonoscopy was normal.  Your upper endoscopy 
revealed gastritis (inflammation of the stomach) and ulcers in 
the esophagus.
 
Followup Instructions:
___